US09034866B2
Into a 5000-mL pressure tank reactor (10 atm) purged and maintained with an inert atmosphere of nitrogen was placed 9-Bromo-8-fluoro-2-iodo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene (204 g, 498.79 mmol, 1.00 equiv), HMDS (403.5 g, 2.50 mol, 5.00 equiv), Pd(PPh3)Cl2 (11 g, 25.02 mmol, 0.05 equiv), and N,N-dimethylformamide (3 L). To the above CO (10 atm) was introduced in. The resulting solution was stirred overnight at 80° C. and quenched by the addition of 5 L of water. The solids were collected by filtration. The crude product was re-crystallized from 800 mL of EA. The mixture was stirred at 50° C. for 3 h. The solids were collected by filtration, washed with 3×100 mL of EA and dried to afford 48.5 g (30%) of 9-Bromo-8-fluoro-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide as a yellow solid. LC-MS: 326 [M+H]+; 1H-NMR (DMSO, 300 MHz, ppm): δ 8.75 (d, J=8.4 Hz, 1H), 7.79 (s, 1H), 7.61 (s, 1H), 7.16-7.11 (m, 2H), 4.49-4.50 (m, 4H).

reactant | 9-Bromo-8-fluoro-2-iodo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene | 498.79 mmol, 204 g, 1.00 equiv | BrC=1C(=CC2=C(C3=NC(=CN3CCO2)I)C1)F | C11H7BrFIN2O
reactant | HMDS | 2.50 mol, 403.5 g, 5.00 equiv | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | N,N-dimethylformamide | 3 L | CN(C=O)C | C3H7NO
product | 9-Bromo-8-fluoro-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide | 48.5 g, 30% | BrC=1C(=CC2=C(C3=NC(=CN3CCO2)C(=O)N)C1)F | C12H9BrFN3O2
